US07365076B2
4-[2-(benzylamino)-1-(3,4-dichlorophenyl)ethyl]-1-methylpiperidin-4-ol dihydrochloride
In an analogous manner to Example 1, step 2 4-[2-(benzylamino)-1-(3,4-dichlorophenyl)ethyl]-1-methylppiperidin-4-ol dihydrochloride was prepared from N-benzyl-2-(3,4-dichlorophenyl)-2-(4-hydroxy-1-methylpiperidin-4-yl)acetamide. HRMS: calcd for C21H26Cl2N2O.2.00 HCl, 464.0956; found (ESI_FT), 393.14924.

reactant | N-benzyl-2-(3,4-dichlorophenyl)-2-(4-hydroxy-1-methylpiperidin-4-yl)acetamide | C(C1=CC=CC=C1)NC(C(C1(CCN(CC1)C)O)C1=CC(=C(C=C1)Cl)Cl)=O | C21H24Cl2N2O2
reactant | HCl | Cl | ClH
product | 4-[2-(benzylamino)-1-(3,4-dichlorophenyl)ethyl]-1-methylpiperidin-4-ol dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)NCC(C1=CC(=C(C=C1)Cl)Cl)C1(CCN(CC1)C)O | InChI=1S/C21H26Cl2N2O.2ClH/c1-25-11-9-21(26,10-12-25)18(17-7-8-19(22)20(23)13-17)15-24-14-16-5-3-2-4-6-16;;/h2-8,13,18,24,26H,9-12,14-15H2,1H3;2*1H
